US04281190
A. 4-(p-Acetoxybenzylidene)-2-(p-chlorophenyl)-5-oxazolone
A mixture of 60 g of N-(p-chlorobenzoyl)glycine, 34.5 g of p-hydroxybenzaldehyde, 23 g of fused sodium acetate and 170 ml of acetic anhydride was heated under reflux for 1 hour. The reaction mixture was cooled slightly and 400 ml of ethanol was added. A solid precipitated on cooling and was filtered and washed with cold ethanol and cold water. An analytical sample was made by recrystallization from CCL4 /EtOH/AcOH, m.p. 185-186.

reactant | N-(p-chlorobenzoyl)glycine | 60 g | ClC1=CC=C(C(=O)NCC(=O)O)C=C1 | C9H8ClNO3
reactant | p-hydroxybenzaldehyde | 34.5 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | acetic anhydride | 170 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 4-(p-Acetoxybenzylidene)-2-(p-chlorophenyl)-5-oxazolone | C(C)(=O)OC1=CC=C(C=C2N=C(OC2=O)C2=CC=C(C=C2)Cl)C=C1 | C18H12ClNO4
